US06686347B2
1-(4-Chloro-3-trifluoromethylanilino)-4-[3-(pyridin-3-yl)propyl]phthalazine
A solution of 321 mg (1.13 mmol) 1-chloro-4-[3-(pyridin-3-yl)propyl]phthalazine, 243 mg (1.24 mmol) 3-trifluoromethyl-4-chloroaniline in 6 ml ethanol and 0.28 ml 4 N HCl in dioxane is stirred for 100 min at 60° C. The cooled reaction solution is poured onto a mixture of 2 ml sat. NH3 solution and 20 ml water and extracted immediately 3 times with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and concentrated by evaporation. Column chromatography (SiO2; EtOAc/acetone 9:1) and stirring in EtOAc/DIPE yield the title compound: m.p. 165-166° C.; TLC (EtOAc/acetone 9:1) Rf=0.21; 1H-NMR (DMSO-d6) 9.50 (s, HN), 8.58 (m, 2H), 8.47 (s, 1H), 8.39 (dd, 1H), 8.33 (dd, 1H), 8.16 (d, 1H), 8.01 (m, 2H), 7.67 (m, 2H), 7.30 (dd, 1H), 3.22 (t, 2H), 2.76 (t, 2H), 2.11 (quint., 2H); FAB-MS (M+H)+=443; an. calc. (C23H18N4ClF3) C, 62.38%; H, 4.10%; N, 12.65%; Cl, 8.01%; F, 12.87%; meas. C, 62.41%; H, 4.07%; N, 12.58%; Cl, 7.99%; F, 12.84%.

reactant | 1-chloro-4-[3-(pyridin-3-yl)propyl]phthalazine | 1.13 mmol, 321 mg | ClC1=NN=C(C2=CC=CC=C12)CCCC=1C=NC=CC1 | C16H14ClN3
reactant | 3-trifluoromethyl-4-chloroaniline | 1.24 mmol, 243 mg | FC(C=1C=C(N)C=CC1Cl)(F)F | C7H5ClF3N
reactant | NH3 | 2 ml | N | H3N
reactant | water | 20 ml | O | H2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | HCl | 4 N, 0.28 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(4-Chloro-3-trifluoromethylanilino)-4-[3-(pyridin-3-yl)propyl]phthalazine | ClC1=C(C=C(NC2=NN=C(C3=CC=CC=C23)CCCC=2C=NC=CC2)C=C1)C(F)(F)F | C23H18ClF3N4
